US04101546
To a stirred solution of 15 grams (0.1 mole) of 2,6-dichloropyrazine in 120 milliliters of concentrated sulfuric acid, maintained at 5° C, was gradually added 30 grams (0.11 mole) of potassium persulfate. The reaction mixture was stirred overnight at room temperature and thereafter poured into 400 milliliters of ice water. The resulting solution was thoroughly extracted with chloroform and the extract washed with both a saturated sodium bicarbonate solution and a saturated sodium chloride solution and dried over magnesium sulfate. The chloroform was thereafter removed by evaporation leaving the 2,6-dichloropyrazine-1-oxide as a white solid residue. The product was recrystallized from methanol and was recovered in a yield of 10.2 grams (62 percent of theoretical). The product melted at 120°-123.5° C, and upon analysis was found to have carbon, hydrogen, nitrogen and chlorine contents of 29.20, 1.42, 17.01 and 42.40 percent, respectively, as compared with the theoretical contents of 29.09, 1.21, 16.97 and 43.03 percent, respectively, calculated for the above-named compound.

reactant | 2,6-dichloropyrazine | 0.1 mole, 15 grams | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | potassium persulfate | 0.11 mole, 30 grams | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | sulfuric acid | 120 milliliters | S(O)(O)(=O)=O | H2O4S
product | 2,6-dichloropyrazine-1-oxide | ClC1=[N+](C(=CN=C1)Cl)[O-] | C4H2Cl2N2O
